data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_239401_1,[C:1]([C:2](=[C:3]([H:11])[H:12])[O:6][H:9])([O:4][H:7])([O:5][H:8])[H:10]>>[C:1]([C:2]([C:3]([H:9])([H:11])[H:12])=[O:6])([O:4][H:7])([O:5][H:8])[H:10],50.55202749999296
MR_486029_0,[C:1](/[C:3](=[C:2](/[O:4][N:5][O:6])[H:7])[H:8])([H:9])([H:10])[H:11]>>[C:1]([C@:3]1([H:8])[C@:2]([N:5][O:6])([H:7])[O:4]1)([H:9])([H:10])[H:11],54.97276499996048
MR_509632_1,[N:1]1([N:4]([H:9])[H:10])[C:2](=[C:7]([H:14])[H:15])[O:8][C:6]([H:13])=[C:3]1[N:5]([H:11])[H:12]>>[N:1](=[C:3](\[N:5]([H:11])[H:12])[C@:6]1([H:13])[C:2](=[C:7]([H:14])[H:15])[O:8]1)\[N:4]([H:9])[H:10],65.38738249999
MR_500169_0,[C:1]([C@@:2]([C:3]([H:16])([H:17])[H:18])([O:6][O:7][H:9])[H:11])([N:4]([H:12])[H:13])([N:5]([H:14])[H:15])[O:8][H:10]>>[C:1]([C@:2]([C:3]([H:16])([H:17])[H:18])([O:8][H:10])[H:11])([N:4]([H:12])[H:13])([N:5]([H:14])[H:15])[O:6][O:7][H:9],55.24760999997994
MR_668163_1,[C:1](/[C:2]([O:4][N:3]([H:11])[H:12])=[N:7]/[H:13])([O:5][H:8])([O:6][H:9])[H:10]>>[C:1]([C:2]([O:4][N:3]([H:11])[H:12])([O:6][H:9])[N:7]([H:8])[H:13])(=[O:5])[H:10],28.736362500034573
MR_308695_1,[C:1]1([O:8][H:10])([O:9][H:11])[O:6][C:2]([C:4]([H:14])([H:15])[H:16])([C:5]([H:17])([H:18])[H:19])[C:3]([H:12])([H:13])[O:7]1>>[C:1]([O:6][C:2]([C:3]([O:7][H:10])([H:12])[H:13])([C:4]([H:14])([H:15])[H:16])[C:5]([H:17])([H:18])[H:19])(=[O:8])[O:9][H:11],32.2221250000085
MR_153426_0,[C@:1](/[C:4](=[C:5](\[C:2]([H:14])([H:15])[H:16])[H:13])[H:12])([O:6][N:3]([H:10])[H:11])([O:7][H:8])[H:9]>>[C:1](=[C:4](/[C@@:5]([C:2]([H:14])([H:15])[H:16])([O:6][N:3]([H:10])[H:11])[H:13])[H:12])(\[O:7][H:8])[H:9],46.98908249999988
MR_290081_0,[C:1]([N:7]=[C:4]([C:2]([H:13])([H:14])[H:18])[C:3]([H:15])([H:16])[H:17])(/[N:8]=[C:5](\[O:6][H:9])[H:12])([H:10])[H:11]>>[C:1]1([H:10])([H:11])[N:7]([C:4](=[C:2]([H:13])[H:14])[C:3]([H:15])([H:16])[H:17])[N:8]1[C:5]([O:6][H:9])([H:12])[H:18],64.46433000000198
MR_348046_1,[C:1]([C:2]([C:6]([N:5]([C:3]([H:14])([H:15])[H:19])[C:4]([H:16])([H:17])[H:18])([O:8][H:9])[H:13])([H:11])[H:12])(=[O:7])[H:10]>>[C:1]([C:2]([C:6](=[O:8])[H:13])([H:11])[H:12])([N:5]([C:3]([H:14])([H:15])[H:19])[C:4]([H:16])([H:17])[H:18])([O:7][H:9])[H:10],32.22839999999266
MR_231248_1,[C:1]([N:4]([C:2]([H:13])([H:14])[H:15])[N:5]([H:8])[H:9])(/[C:6](=[N:7]/[C:3]([H:16])([H:17])[H:18])[H:12])([H:10])[H:11]>>[C:1](=[C:6]([N:7]([C:3]([H:16])([H:17])[H:18])[N:4]([C:2]([H:13])([H:14])[H:15])[N:5]([H:8])[H:9])[H:12])([H:10])[H:11],61.56904499999968
MR_211760_1,[C:1]1([H:14])([H:15])[C:4]([C:5](=[C:2]([H:19])[H:20])[N:7]([H:12])[H:13])([N:6]([H:10])[H:11])[C:8]1([C:9]([C:3]([H:21])([H:22])[H:23])([H:17])[H:18])[H:16]>>[C:1](/[C:4](=[C:5](\[C:2]([H:18])([H:19])[H:20])[N:7]([H:12])[H:13])[N:6]([H:10])[H:11])(/[C:8](=[C:9](\[C:3]([H:21])([H:22])[H:23])[H:17])[H:16])([H:14])[H:15],36.33413250000643
MR_101950_1,[C:1]([C:5]([O:7][C:2]([H:12])([H:13])[H:14])=[O:9])([N:8]=[C:6]([C:3]([H:15])([H:18])[H:19])[C:4]([H:16])([H:17])[H:20])([H:10])[H:11]>>[C:1]1([H:10])([H:11])[C:5](=[O:9])[N:8]1[C:6]([C:3]([H:15])([H:18])[H:19])([C:4]([H:16])([H:17])[H:20])[O:7][C:2]([H:12])([H:13])[H:14],71.86255499997827
MR_335410_1,[C:1]([C:3]([H:17])([H:18])[H:19])([C:4]([H:15])([H:16])[H:20])(/[C:6](=[N:8]/[N:5]([H:9])[H:10])[H:11])[O:7][C:2]([H:12])([H:13])[H:14]>>[C:1]([C:3]([H:17])([H:18])[H:19])([C:4]([H:15])([H:16])[H:20])=[C:6]([N:8]([N:5]([H:9])[H:10])[O:7][C:2]([H:12])([H:13])[H:14])[H:11],59.51398250001617
MR_223119_2,[C:1]([N:3]([H:8])[H:9])(=[O:5])[O:7]/[C:2]([N:4]([H:10])[H:11])=[N:6]\[H:12]>>[C:1]([N:3]([H:8])[H:9])([O:5]/[C:2]([N:4]([H:10])[H:11])=[N:6]\[H:12])=[O:7],30.50089250000255
MR_405427_0,[C:1]([N:2]([C:4]([N:3]([N:6]([H:11])[H:12])[H:8])=[O:7])[N:5]([H:9])[H:10])([H:13])([H:14])[H:15]>>[C:1]([C:4]([N:2]([N:3]([N:6]([H:11])[H:12])[H:8])[N:5]([H:9])[H:10])=[O:7])([H:13])([H:14])[H:15],73.06610000000717
MR_376097_0,[C:1]([N:3]([C:2]([C:4](=[O:7])[H:14])([H:12])[H:13])[H:10])([O:5][H:9])([O:6][H:8])[H:11]>>[C:1]([C:2]([N:3]([C:4](=[O:7])[H:14])[H:10])([H:12])[H:13])([O:5][H:9])([O:6][H:8])[H:11],69.51507749998399
MR_138062_1,[C:1]12([H:11])[C:2]([H:12])([H:13])[C:5]1([C:3]([H:16])([H:17])[H:18])[C:6]([C:4]([H:19])([H:20])[H:21])=[C:8]([H:15])[C:7]2([O:9][H:10])[H:14]>>[C:1]1([O:9][H:10])([H:11])[C:2]([H:12])([H:13])[C:5]([C:3]([H:16])([H:17])[H:18])=[C:6]([C:4]([H:19])([H:20])[H:21])[C:8]([H:15])=[C:7]1[H:14],67.53908000001488
MR_396915_1,[C:1]1([H:13])([H:14])/[C:3](=[N:6]\[H:11])[C:2]([N:4]([H:9])[H:10])([H:12])[O:7][C:5]1=[O:8]>>[C:1](/[C:3]([C:2]([N:4]([H:9])[H:10])=[O:7])=[N:6]\[H:11])([C:5](=[O:8])[H:12])([H:13])[H:14],66.74278249999219
MR_396665_0,[C:1]1([O:7][H:8])([H:10])[C:5]([H:11])=[C:4]([C:2]([H:12])([H:13])[H:14])[N:3]([H:9])[O:6]1>>[C:1]1([H:10])=[C:5]([H:11])[C:4]([C:2]([H:12])([H:13])[H:14])([O:7][H:8])[N:3]([H:9])[O:6]1,50.03747749997231
